US07968720B2
(4-Chloro-3-hydroxymethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester
[3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester (4.35 g, 9.67 mmol) was suspended in MeOH (100 mL), and aq. 1M NaOH (50 mL) was added. The mixture was heated to reflux for 3 h, and the solvents were partially removed under reduced pressure. The aq. residue was diluted with water (100 mL), and the mixture was extracted with EtOAc (3×). The combined org. extracts were washed with brine, dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 2:8→3:7) yielded the title compound (2.70 g, 83%). LC-MS: tR=0.99 min; ES+: 302.96.

reactant | [3-(tert-Butyl-dimethyl-silanyloxymethyl)-4-chloro-benzyl]-(2,2-difluoro-ethyl)-carbamic acid tert-butyl ester | 9.67 mmol, 4.35 g | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)C(O[SiH2]C(C)(C)C)(C)C)=O | C21H34ClF2NO3Si
reactant | NaOH | 1M, 50 mL | [OH-].[Na+]
solvent | MeOH | 100 mL | CO | CH4O
product | (4-Chloro-3-hydroxymethyl-benzyl)-(2,2-difluoro-ethyl)-carbamic Acid tert-butyl Ester | 2.70 g, 83% | C(C)(C)(C)OC(N(CC(F)F)CC1=CC(=C(C=C1)Cl)CO)=O | C15H20ClF2NO3
